* Reverse Logarithmic (C-Taper) Potentiometer
* _____
* 1--|_____|--2
* |
* 3
*
.SUBCKT revlog_pot 1 2 3
.param w=limit(wiper,0,1)
R0 1 3 {Rtot * ((1 - w) ** 3.3) + 1m}
R1 3 2 {Rtot * (1 - ((1 - w) ** 3.3)) + 1m}
.ENDS